US05905090
N-(3-trifluoromethoxyphenyl)-2-hydroxybenzamide
This compound was obtained as a white solid starting from acetylsalicyclic acid and 3trifluoromethoxyaniline using the same procedure described in example 5.

reactant | acetylsalicyclic acid | C(C)(=O)OC=1C(C(=O)O)=CC=CC1 | C9H8O4
reactant | 3trifluoromethoxyaniline | FC(OC=1C=C(N)C=CC1)(F)F | C7H6F3NO
product | N-(3-trifluoromethoxyphenyl)-2-hydroxybenzamide | FC(OC=1C=C(C=CC1)NC(C1=C(C=CC=C1)O)=O)(F)F | C14H10F3NO3
